US08026257B2
7-Bromo-5-(trifluoromethyl)-1H-indazole.
To a suspension of 2-bromo-6-methyl-4-(trifluoromethyl)aniline (1 1.3 g, 44.5 mmol) in hydrochloric acid (8 M, 40 mL, 320 mmol) at −10° C. was added a solution of sodium nitrite (3.22 g, 46.7 mmol) in water (ca. 10 mL) dropwise. After 10 min, the resulting solution was neutralized by addition of solid sodium acetate. The resulting solution was added to a solution of 2-methyl-2-propanethiol (5.01 mL, 44.5 mmol) in ethanol (100 mL) at 0° C. The resulting mixture was stirred at 0° C. for 30 min. The resulting mixture was poured onto ice and the resulting mixture was extracted into diethyl ether (2×). The ethereal was washed with water, then brine, dried over magnesium sulfate, and concentrated. The resulting residue was dissolved in dimethylsulfoxide (25 mL) and transferred to a solution of potassium tert-butoxide (39.9 g, 356 mmol) in dimethylsulfoxide (250 mL) in a cool water bath (ca. 10° C.) via canula. The bath was removed and stirring continued for 30 min. The reaction mixture was poured onto ice/concentrated hydrochloric acid to give a precipitate. After 30 min, the resulting solid was collected by filtration and air dried on the filter overnight to give 10.1 g (86%) as a tan solid. 1H-NMR (CDCl3, 500 MHz) δ 8.24 (s, 1H), 8.01 (s, 1H), 7.73 (s, 1H), 2.83 (bs, 1H); 13C-NMR (CDCl3, 126 MHz) δ 140.7, 136.3, 125.8 (q, J=2.9 Hz), 124.9 (q, J=33 Hz), 123.8 (q, J=273 Hz), 123.2, 118.4 (q, J=3.8 Hz), 104.1.

reactant | 2-bromo-6-methyl-4-(trifluoromethyl)aniline | 44.5 mmol, 1.3 g | BrC1=C(N)C(=CC(=C1)C(F)(F)F)C | C8H7BrF3N
reactant | hydrochloric acid | 320 mmol, 8 M, 40 mL | Cl | ClH
reactant | sodium nitrite | 46.7 mmol, 3.22 g | N(=O)[O-].[Na+]
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | 2-methyl-2-propanethiol | 44.5 mmol, 5.01 mL | CC(C)(C)S | C4H10S
reactant | potassium tert-butoxide | 356 mmol, 39.9 g | CC(C)([O-])C.[K+]
solvent | water | ca. 10 mL | O | H2O
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | dimethylsulfoxide | 250 mL | CS(=O)C | C2H6OS
product | 7-Bromo-5-(trifluoromethyl)-1H-indazole | BrC=1C=C(C=C2C=NNC12)C(F)(F)F | C8H4BrF3N2
